US08486952B2
To a solution of 2,4-dichloro-7-(2,4-difluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine (267.9 mg, 0.890 mmol) in methanol (5 mL) was added a 2M solution of methylamine in methanol (0.890 mL, 1.779 mmol). The reaction mixture was stirred at room temperature overnight. The solvent was removed in vacuum and the residue was partitioned between ethyl acetate and water. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic extracts were dried over anhydrous magnesium sulfate and filtered. The solvent was removed in vacuum and the residue was purified by column chromatography on silica gel to give 2-chloro-7-(2,4-difluorophenyl)-N-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (184.6 mg, 0.624 mmol, 70.2% yield) as brown solid. LC-MS (M+H)+=296.1.

reactant | 2,4-dichloro-7-(2,4-difluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 0.890 mmol, 267.9 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=C(C=C(C=C2)F)F)Cl | C13H8Cl2F2N2
reactant | methylamine | CN | CH5N
solvent | methanol | 5 mL | CO | CH4O
solvent | methanol | 1.779 mmol, 0.890 mL | CO | CH4O
product | 2-chloro-7-(2,4-difluorophenyl)-N-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 0.624 mmol, 184.6 mg, 70.2% yield | ClC=1N=C(C2=C(N1)C(CC2)C2=C(C=C(C=C2)F)F)NC | C14H12ClF2N3
